### PR TITLE
[Merged by Bors] - feat(Algebra.Module.Zlattice): add Zlattice.module_free and Zlattice.rank

### PR DESCRIPTION
**Pull request by xroblot**
We prove the main characterisation of $\mathbb{Z}$-lattices: a subgroup $L$ of $\mathbb{R}^n$ that is discrete and that spans $\mathbb{R}^n$ is a free $\mathbb{Z}$-module of rank $n$ (in a slightly more general setting).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by semorrison** [comment]
Please remember to add the label `awaiting-review` when this is ready for review. (Alternatively PRs that refactor files that were ported from mathlib3 should be labelled `after-port`.)

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 1]
```diff
@@ -261,3 +300,140 @@ protected theorem isAddFundamentalDomain [Finite ι] [MeasurableSpace E] [OpensM
...
+
+section Zlattice
+
+open Submodule
+
+variable (K : Type _) [NormedLinearOrderedField K] [HasSolidNorm K] [FloorRing K]
+variable {E : Type _} [NormedAddCommGroup E] [NormedSpace K E] [FiniteDimensional K E]
+variable {L : AddSubgroup E}
+variable (hd : ∀ r : ℝ, ((L : Set E) ∩ (Metric.closedBall 0 r)).Finite)
+variable (hs : span K (L : Set E) = ⊤)
```
Comment (ocfnash) [inline Mathlib/Algebra/Module/Zlattice.lean:312]: How about using:
```suggestion
variable [DiscreteTopology L] (hs : span K (L : Set E) = ⊤)
```
You might have to wait for #5969 to land but I think it might make for a more useful theory.

Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean:312]: Yes, that's a good idea. It was something I was planning to do and then forgot. I'll have a look soon. Thanks

Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean]: @ocfnash I have committed a new version that uses `DiscreteTopology`. In the end, I did not need the results of #5969 but the much more basic result that the intersection of a bounded set and a closed discrete set is finite that I added to `Topology.MetricSpace.Basic`

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 2]
```diff
@@ -153,6 +162,15 @@ theorem fract_mem_fundamentalDomain (x : E) : fract b x ∈ fundamentalDomain b
   fract_eq_self.mp (fract_fract b _)
 #align zspan.fract_mem_fundamental_domain Zspan.fract_mem_fundamentalDomain
 
+/-- The map `fract` with codomain restricted to `fundamentalDomain`. -/
+def fract_restrict (x : E) : fundamentalDomain b := ⟨fract b x, fract_mem_fundamentalDomain b x⟩
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Zlattice.lean:166]: I think it would be better to just define `fract` as this bundled version; what do you think?

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 3]
```diff
@@ -222,6 +240,27 @@ theorem exist_unique_vadd_mem_fundamentalDomain [Finite ι] (x : E) :
...
+      Quotient.liftOn_mk (s := quotientRel (span ℤ (Set.range b))),  fract_restrict,
+      Subtype.mk.injEq] at hxy
+    apply Quotient.sound'
+    rwa [QuotientAddGroup.leftRel_apply, mem_toAddSubgroup, ← fract_eq_fract]
+  · obtain ⟨a, rfl⟩ := fract_restrict_surjective b x
+    exact ⟨Quotient.mk'' a, rfl⟩
+
+@[simp]
+theorem quotientEquiv_apply_mk [Fintype ι] (x : E) :
+    QuotientEquiv b (Submodule.Quotient.mk x) = fract_restrict b x := rfl
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Zlattice.lean:262]: Can you say anything about `QuotientEquiv.symm`?

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 4]
```diff
@@ -258,3 +297,143 @@ protected theorem isAddFundamentalDomain [Finite ι] [MeasurableSpace E] [OpensM
...
+      rw [SetLike.coe_subset_coe, Basis.coe_mk, Subtype.range_coe_subtype, Set.setOf_mem_eq]
+      exact span_le.mpr h_incl
+  · -- `span ℤ s` is finitely generated because `s` is finite
+    rw [ker_mkQ, inf_of_le_right (span_le.mpr h_incl)]
+    exact fg_span (LinearIndependent.finite h_lind)
+
+theorem Zlattice.module_finite : Module.Finite ℤ L :=
+  Module.Finite.iff_addGroup_fg.mpr ((AddGroup.fg_iff_addSubgroup_fg L).mpr (FG K hs))
+
+theorem Zlattice.module_free : Module.Free ℤ L := by
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Zlattice.lean:348]: These should be instances

File: Mathlib/Algebra/Module/Zlattice.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean:166]: I am not sure. In  almost all results, I will then need to coerce `fract` to an element of `E` to state the result (except one or two). Furthermore, since `fundamentalDomain` has no algebraic structure, I will need also to coerce `fract` to an element of `E` to do any significant computation. 

I can try if you want. What would be the expected gain though?

File: Mathlib/Algebra/Module/Zlattice.lean (hunk 4 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean:348]: Yes, Lean does not like these much as instances :)

File: Mathlib/Algebra/Module/Zlattice.lean (hunk 3 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean:262]: I added a new result
```lean
theorem quotientEquiv.symm_apply (x : fundamentalDomain b) :
    (QuotientEquiv b).symm x = Submodule.Quotient.mk ↑x 
```

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 5]
```diff
@@ -258,3 +303,143 @@ protected theorem isAddFundamentalDomain [Finite ι] [MeasurableSpace E] [OpensM
...
+variable [ProperSpace E] {L : AddSubgroup E} [DiscreteTopology L]
+variable (hs : span K (L : Set E) = ⊤)
+
+theorem Zlattice.FG : AddSubgroup.FG L := by
+  suffices (AddSubgroup.toIntSubmodule L).FG by exact (fg_iff_add_subgroup_fg _).mp this
+  obtain ⟨s, ⟨h_incl, ⟨h_span, h_lind⟩⟩⟩ := exists_linearIndependent K (L : Set E)
+  -- Let `s` be a maximal `K`-linear independent family of elements of `L`. We show that
+  -- `L` is finitely generated (as a ℤ-module) because it fits in the exact sequence
+  -- `0 → span ℤ s → L → L / span ℤ s → 0` with `span ℤ s` and `L / span ℤ s` finitely generated.
+  refine fg_of_fg_map_of_fg_inf_ker (span ℤ s).mkQ ?_ ?_
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Zlattice.lean:322]: I'm inclined to slightly reorganize the proof.
```suggestion
  have spanZsFG : (span ℤ s).FG := by
    rw [ker_mkQ, inf_of_le_right (span_le.mpr h_incl)]
    exact fg_span (LinearIndependent.finite h_lind)
  refine fg_of_fg_map_of_fg_inf_ker (span ℤ s).mkQ ?_ spanZsFG
```
Then you don't need to indent the rest of the proof.

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 6]
```diff
@@ -258,3 +303,143 @@ protected theorem isAddFundamentalDomain [Finite ι] [MeasurableSpace E] [OpensM
...
+  · -- Let `b` be the `K`-basis of `E` formed by the vectors in `s`. The elements of
+    -- `L / span ℤ s = L /span ℤ b` are in bijection with elements of `L ∩ fundamentalDomain b`
```
Comment (jcommelin) [inline Mathlib/Algebra/Module/Zlattice.lean:324]:
```suggestion
    -- `L / span ℤ s = L / span ℤ b` are in bijection with elements of `L ∩ fundamentalDomain b`
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Algebra/Module/Zlattice.lean [hunk 7]
```diff
@@ -258,3 +303,143 @@ protected theorem isAddFundamentalDomain [Finite ι] [MeasurableSpace E] [OpensM
...
+variable {E : Type*} [NormedAddCommGroup E] [NormedSpace K E] [FiniteDimensional K E]
+variable [ProperSpace E] {L : AddSubgroup E} [DiscreteTopology L]
+variable (hs : span K (L : Set E) = ⊤)
+
+theorem Zlattice.FG : AddSubgroup.FG L := by
+  suffices (AddSubgroup.toIntSubmodule L).FG by exact (fg_iff_add_subgroup_fg _).mp this
+  obtain ⟨s, ⟨h_incl, ⟨h_span, h_lind⟩⟩⟩ := exists_linearIndependent K (L : Set E)
+  -- Let `s` be a maximal `K`-linear independent family of elements of `L`. We show that
+  -- `L` is finitely generated (as a ℤ-module) because it fits in the exact sequence
+  -- `0 → span ℤ s → L → L / span ℤ s → 0` with `span ℤ s` and `L / span ℤ s` finitely generated.
```
Comment (eric-wieser) [inline Mathlib/Algebra/Module/Zlattice.lean:321]:
```suggestion
  -- `0 → span ℤ s → L → L ⧸ span ℤ s → 0` with `span ℤ s` and `L ⧸ span ℤ s` finitely generated.
```
and throughout

File: Mathlib/Algebra/Module/Zlattice.lean (hunk 6 above)
Comment (eric-wieser) [reply Mathlib/Algebra/Module/Zlattice.lean:324]:
```suggestion
    -- `L ⧸ span ℤ s = L ⧸ span ℤ b` are in bijection with elements of `L ∩ fundamentalDomain b`
```

**Comment by ocfnash** [comment]
This is not really a suggestion but just a point I wanted to raise: it would be nice to frame this as part of the general theory of lattices in topological groups.

I don't know much about this theory but I expect for example that `Zlattice.FG` should generalise beyond just the case of (the additive subgroup of) vector spaces?

I was guessing the definition should be about a compact quotient but my reading of wikipedia suggests it should be something like:
```lean
import Mathlib.MeasureTheory.Group.Measure

open MeasureTheory MeasureTheory.Measure

class IsLattice {G : Type*} [Group G] [TopologicalSpace G]
    (Γ : Subgroup G) [DiscreteTopology Γ] [MeasurableSpace G] : Prop :=
  exists_smulInv_finite : ∃ (μ : Measure (G ⧸ Γ)), SMulInvariantMeasure G _ μ ∧ IsFiniteMeasure μ
```
(possibly also including `[TopologicalGroup G] [LocallyCompactSpace G] [BorelSpace G]`).

In addition to permitting generalising, I think such a definition (or similar) would help organise the very nice results in this PR a little.

File: Mathlib/Algebra/Module/Zlattice.lean (hunk 5 above)
Comment (xroblot) [reply Mathlib/Algebra/Module/Zlattice.lean:322]: Indeed. But the goal to prove is actually a bit more complicated to state than `(span ℤ s).FG` so I prefer to use refine here.

**Comment by xroblot** [comment]
I agree that the notion of ℤ-lattice developed in this PR should generalise to the setting of topological groups. However, I am far from an expert on the subject and I wouldn't know what the right setting/definition is. Maybe what you can do is to open an issue of that topic so that more experts people can weight in eventually.
